US06593352B2
4-(4-Methylphenyl)-5-(3-chloro-4-fluorobenzylsulfamoyl)-2-phenylbutylaminobenzoic acid
from reaction of 1 eq. 4-bromo-5-(3-chloro-4-fluorobenzylsulfamoyl)-2-phenylbutylaminobenzoic acid and 1.2 eq. of 4-tolylboronic acid in a solv. mixture of toluene/MeOH 2:1 in the presence of 10 mol % of Pd(OAc)2, 20 mol % of triphenylphosphine and 3 eq. of sodium carbonate under reflux for 3 hours. Aqueous work-up, subsequent preparative HPLC and freeze-drying yields a colorless solid.

reactant | 4-bromo-5-(3-chloro-4-fluorobenzylsulfamoyl)-2-phenylbutylaminobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1S(NCC1=CC(=C(C=C1)F)Cl)(=O)=O)NCC(CC)C1=CC=CC=C1 | C24H23BrClFN2O4S
reactant | 4-tolylboronic acid | 1.2 eq. | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 3 eq. | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene MeOH | C1(=CC=CC=C1)C.CO
product | 4-(4-Methylphenyl)-5-(3-chloro-4-fluorobenzylsulfamoyl)-2-phenylbutylaminobenzoic acid | CC1=CC=C(C=C1)C1=CC(=C(C(=O)O)C=C1S(NCC1=CC(=C(C=C1)F)Cl)(=O)=O)NCC(CC)C1=CC=CC=C1 | C31H30ClFN2O4S
